US04281120
The procedure used was as in Example 5. However, there were reacted 10 g of 2-amino-5-[di-(n-propyl)amino]-1,3,4-thiadiazole and 8.5 g of diethyl acetylenedicarboxylate in the presence of 200 ml of ethanol to give 10.2 g (63% of the theoretical yield) of ethyl 2-[di-(n-propyl)amino]-7H-1,3,4-thiadiazolo-[3,2-a]-pyrimidin-7-one-5-carboxylate, melting at 95°-97° C.

reactant | 2-amino-5-[di-(n-propyl)amino]-1,3,4-thiadiazole | 10 g | NC=1SC(=NN1)N(CCC)CCC | C8H16N4S
reactant | diethyl acetylenedicarboxylate | 8.5 g | C(#CC(=O)OCC)C(=O)OCC | C8H10O4
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | ethyl 2-[di-(n-propyl)amino]-7H-1,3,4-thiadiazolo-[3,2-a]-pyrimidin-7-one-5-carboxylate | C(CC)N(C1=NN2C(=NC(C=C2C(=O)OCC)=O)S1)CCC | C14H20N4O3S
